US05219848
7-[2-(2-Aminothiazol-4-yl)-2-((Z)-1-carboxy-1-methylethoxyimino)acetamido]-3-(6,7-dihydroxy-3-oxo-tetrahydroisoquinolin-2-ylmethyl)ceph-3-em-4-carboxylic acid
The product from c) (210 mg) in DMF (1 ml) was added, at 0° C., to a suspension of 7-[2-(2-aminothiazol-4-yl)-2-((Z)-1-carboxy-1-methylethoxyimino)acetamido]-3-aminomethylceph-3-em-4-carboxylic acid (484 mg) in methanol/water (9:1 ratio; 7 ml) under an argon atmosphere. Sodium cyanoborohydride (63 mg) was added, reaction mixture was stirred for 3 hours at ambient temperature and solvent evaporated under reduced pressure to give a residue. This was dissolved in 10% aqueous acetonitrile (30 ml) containing acetic acid and sodium acetate and purified by preparative HPLC chromatography (Dynamax) using acetonitrile/water containing 0.1% trifluoroacetic acid as eluant to a carboxy-1-methylethoxyimino)acetamido]-3-(4,5-dihydroxy-2-(methoxycarbonylmethyl)benzylaminomethyl)ceph-3-em-4-carboxylic acid (50 mg); NMR (DMSO-d6 /CF3COOH) 1.50(s,3H); 1.53(s,3H); 3.63(s,3H); 3.7(m,2H); 3.92(m,2H); 4.1(m,2H); 5.22(d,1H); 5.9(dd,1H); 6.72(s,1H); 6.95(s,1H); 7.1(s,1H); 8.3(s,1H); 9.1(s,1H); 9.62(d,2H): FAB M/S (M-H)- 678.

reactant | 7-[2-(2-aminothiazol-4-yl)-2-((Z)-1-carboxy-1-methylethoxyimino)acetamido]-3-aminomethylceph-3-em-4-carboxylic acid | 484 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CN)C(=O)O)C1=O)=N/OC(C)(C)C(=O)O | C17H20N6O7S2
reactant | Sodium cyanoborohydride | 63 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | methanol water | 7 ml | CO.O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 7-[2-(2-Aminothiazol-4-yl)-2-((Z)-1-carboxy-1-methylethoxyimino)acetamido]-3-(6,7-dihydroxy-3-oxo-tetrahydroisoquinolin-2-ylmethyl)ceph-3-em-4-carboxylic acid | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CN2CC3=CC(=C(CC3CC2=O)O)O)C(=O)O)C1=O)=N/OC(C)(C)C(=O)O | C26H28N6O10S2
